US06541473B2
4[2,4-bis(Methoxymethoxy)phenyl]cyclohexanone
A round bottomed flask was charged with 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane (3.20 g) and methanol (50 ml). Over a 20 min period, aqueous hydrochloric acid (50 ml, 1M) was added to the stirred solution, at room temperature and the reaction mixture stirred for 1.5 hr. Solid sodium bicarbonate was added until the reaction mixture was neutralised and the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate (30 ml) and water (10 ml), and the aqueous layer was extracted with ethyl acetate (3×20 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:4, v/v), affording the title compound (2.20 g, 60%) as a white powder. δH (CDCl3) 1.85-1.96 (2H, m), 2.14-2.22 (2H, m), 2.46-2.59 (4H, m), 3.39 (1H, tt), 3.49 (3H, s), 3.52 (3H, s), 5.16 (2H, s), 5.23 (2H, s), 6.67-6.71 (1H, m), 6.85 (1H, m), 7.08 (1H, d).

reactant | 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane | 3.20 g | COCOC1=C(C=CC(=C1)OCOC)C1CCC2(OCCO2)CC1 | C18H26O6
reactant | hydrochloric acid | 1M, 50 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4[2,4-bis(Methoxymethoxy)phenyl]cyclohexanone | 2.20 g, 60% | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=O | C16H22O5
